US09120744B2
4-Benzhydrylmorpholine.
Diphenylmethyl bromide (211 mg, 0.877 mmol) was added to a solution of morpholine (23.9 μL, 0.274 mmol), triethylamine (130 μL, 0.932 mmol) and chloroform (1.4 mL) and was allowed to stir at room temperature. After 48 hr, the reaction mixture was concentrated in vacuo and the resulting crude mixture was purified by column chromatography (10% ethyl acetate/hexanes) to provide the title compound in 14% yield.

reactant | Diphenylmethyl bromide | 0.877 mmol, 211 mg | C1(=CC=CC=C1)C(C1=CC=CC=C1)Br | C13H11Br
reactant | morpholine | 0.274 mmol, 23.9 μL | N1CCOCC1 | C4H9NO
reactant | triethylamine | 0.932 mmol, 130 μL | C(C)N(CC)CC | C6H15N
solvent | chloroform | 1.4 mL | C(Cl)(Cl)Cl | CHCl3
product | 4-Benzhydrylmorpholine | 14% yield | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CCOCC1 | C17H19NO
